US05037986
A solution of 18.1 g (0.0605 mole) of 1-(2-acetoxy-1,1-dimethylethyl)-1H-imidazo[4,5-c]quinolin-4-ol and 500 mL of 6N hydrochloric acid was heated at its reflux temperature for one day and cooled to about 20° C. The solid salt, 1H-imidazo[4,5-c]quinolin-4-ol hydrochloride, was separated by filtration. The salt was neutralized by slurrying in saturated sodium bicarbonate solution. The solid was separated by filtration, dried, and further dried by twice repeated coevaporation with ethanol to provide tan solid 1H-imidazo[4,5-c]quinolin-4-ol. The structural assignment was supported by infrared and nuclear magnetic resonance spectral analyses and comparison with the spectra of the product from Example 29.

reactant | 1-(2-acetoxy-1,1-dimethylethyl)-1H-imidazo[4,5-c]quinolin-4-ol | 0.0605 mole, 18.1 g | C(C)(=O)OCC(C)(C)N1C=NC=2C(=NC=3C=CC=CC3C21)O | C16H17N3O3
solvent | hydrochloric acid | 6N, 500 mL | Cl | ClH
product | 1H-imidazo[4,5-c]quinolin-4-ol | N1C=NC=2C(=NC=3C=CC=CC3C21)O | C10H7N3O
